US08492582B2
Under ice-cooling, piperidine (0.094 mL) was added to an acetone (1.5 mL) suspension of tert-butyl 2-(5-(bromomethyl)-2-(methoxymethoxy)benzamido)-4-phenylbenzoate (0.10 g), followed by stirring at room temperature for 1 hour. The solvent was evaporated under reduced pressure, and a saturated aqueous solution of sodium bicarbonate and ethyl acetate were added to the residue. The organic layer was separated, washed with a saturated aqueous solution of sodium chloride, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography [Kanto Chemical Co., Inc., silica gel 60 (spherical), eluent: 100-95% chloroform/methanol] to obtain 0.080 g of tert-butyl 2-(2-(methoxymethoxy)-5-((piperidin-1-yl)methyl)benzamido)-4-phenylbenzoate.

reactant | piperidine | 0.094 mL | N1CCCCC1 | C5H11N
reactant | tert-butyl 2-(5-(bromomethyl)-2-(methoxymethoxy)benzamido)-4-phenylbenzoate | 0.10 g | BrCC=1C=CC(=C(C(=O)NC2=C(C(=O)OC(C)(C)C)C=CC(=C2)C2=CC=CC=C2)C1)OCOC | C27H28BrNO5
solvent | acetone | 1.5 mL | CC(=O)C | C3H6O
product | tert-butyl 2-(2-(methoxymethoxy)-5-((piperidin-1-yl)methyl)benzamido)-4-phenylbenzoate | 0.080 g | COCOC1=C(C(=O)NC2=C(C(=O)OC(C)(C)C)C=CC(=C2)C2=CC=CC=C2)C=C(C=C1)CN1CCCCC1 | C32H38N2O5
